US04954497
In dimethyl formamide (10 ml) was suspended 60% sodium hydride (dispersion in paraffin) (288 mg), to which was added dropwise a solution of 2-chlorophenol (926 mg) in dimethylformamide. When exothermic reaction and evolution of hydrogen gas ceased, 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine (1 g) was added to the reaction mixture, followed by stirring for hours at 80° C. The reaction mixture was poured into ice-water, then precipitating substance was collected by filtration, and purified by means of a silica gel column chromatography [eluent: n-hexane+ethyl acetate (1:1)] to obtain 2-(2-chlorophenoxy)-5-(3,4-dimethoxybenzoyl)pyridine (1.1 g) as an oil.

reactant | sodium hydride | 288 mg | [H-].[Na+]
reactant | 2-chlorophenol | 926 mg | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine | 1 g | ClC1=NC=C(C=C1)C(C1=CC(=C(C=C1)OC)OC)=O | C14H12ClNO3
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2-chlorophenoxy)-5-(3,4-dimethoxybenzoyl)pyridine | 1.1 g | ClC1=C(OC2=NC=C(C=C2)C(C2=CC(=C(C=C2)OC)OC)=O)C=CC=C1 | C20H16ClNO4
